** sch_path: /foss/designs/AUS-NZ-integration/team_src/xschem/chip_top/chip_top.sch
**.subckt chip_top VSSA VDDA IBIAS ISS VTUNE CP_OUT I_N Q_P Q_N VDDD REF_IN
*.iopin VSSA
*.ipin VDDA
*.ipin IBIAS
*.ipin ISS
*.ipin VTUNE
*.opin CP_OUT
*.opin I_N
*.opin Q_P
*.opin Q_N
*.ipin VDDD
*.ipin REF_IN
x_pfd_lib REF_IN I_P UP DOWN VDDD VSSA PFD_lib
x_cp_v1 UP DOWN CP_OUT VDDA VSSA VGP VGN CP_v1
x_ibias_gen_v1 IBIAS_C VGP VGN IB_DIV2 VDDA VSSA ibias_gen_v1
x_div2_quad_v1 VCO_OUTP VCO_OUTN IB_DIV2 I_P I_N Q_P Q_N VDDD VSSA DIV2_QUAD_v1
x_vco_v1 VDDA VCO_OUTP VCO_OUTN VSSA VTUNE ISS vco_v1
XR_ESD_IBIAS IBIAS_C IBIAS VSSA ppolyf_u r_width=16e-6 r_length=4e-6
D_ESD_IBIAS_P IBIAS_C VDDA diode_pd2nw_03v3 area='10u * 10u ' pj='2*10u + 2*10u ' m=4
D_ESD_IBIAS_N VSSA IBIAS_C diode_nd2ps_03v3 area='10u * 10u ' pj='2*10u + 2*10u ' m=4
D_ESD_ISS_P ISS VDDA diode_pd2nw_03v3 area='10u * 10u ' pj='2*10u + 2*10u ' m=4
D_ESD_ISS_N VSSA ISS diode_nd2ps_03v3 area='10u * 10u ' pj='2*10u + 2*10u ' m=4
**.ends

* expanding   symbol:  PFD_lib.sym # of pins=6
** sym_path: /foss/designs/AUS-NZ-integration/team_src/xschem/chip_top/PFD_lib.sym
** sch_path: /foss/designs/AUS-NZ-integration/team_src/xschem/chip_top/PFD_lib.sch
.subckt PFD_lib REF FB UP DOWN VDD VSS
.ends


* expanding   symbol:  CP_v1.sym # of pins=7
** sym_path: /foss/designs/AUS-NZ-integration/team_src/xschem/chip_top/CP_v1.sym
** sch_path: /foss/designs/AUS-NZ-integration/team_src/xschem/chip_top/CP_v1.sch
.subckt CP_v1 UP DOWN CP_OUT VDD VSS VGP VGN
.ends


* expanding   symbol:  ibias_gen_v1.sym # of pins=6
** sym_path: /foss/designs/AUS-NZ-integration/team_src/xschem/chip_top/ibias_gen_v1.sym
** sch_path: /foss/designs/AUS-NZ-integration/team_src/xschem/chip_top/ibias_gen_v1.sch
.subckt ibias_gen_v1 IBIAS VGP VGN IB_DIV2 VDD VSS
.ends


* expanding   symbol:  DIV2_QUAD_v1.sym # of pins=9
** sym_path: /foss/designs/AUS-NZ-integration/team_src/xschem/chip_top/DIV2_QUAD_v1.sym
** sch_path: /foss/designs/AUS-NZ-integration/team_src/xschem/chip_top/DIV2_QUAD_v1.sch
.subckt DIV2_QUAD_v1 CK CKB IBIAS I_P I_N Q_P Q_N VDD VSS
.ends


* expanding   symbol:  vco_v1.sym # of pins=6
** sym_path: /foss/designs/AUS-NZ-integration/team_src/xschem/chip_top/vco_v1.sym
** sch_path: /foss/designs/AUS-NZ-integration/team_src/xschem/chip_top/vco_v1.sch
.subckt vco_v1 VDD OUT_p OUT_n GND TUNE ISS
.ends

.end
